US07179934B2
(2R,4R)-2-Aminomethyl-4-(2,4-difluoro-benzyl)-hexanoic acid
A flask was charged with 0.5 g (1.2 mmol) of 2-tert-butyl-5-[2-(2,4-difluoro-benzyl)-butyl]-3-methyl-4-oxo-tetrahydro-pyrimidine-1-carboxylic acid methyl ester, 20 mL of dioxane, and 20 mL of conc. HCl solution. The mixture was stirred and heated at 110° C. for 4 days. The solvents were removed under reduced pressure. The residue was taken up in 20 mL of water and 4 drops of conc. HCl solution. The aqueous layer was washed with dichloromethane. The aqueous layer was collected and the water was removed under reduced pressure. The residue was treated with 2 mL of triethylamine, and the excess triethylamine was removed under reduced pressure. The remaining solid was purified by column chromatography (1:8:27 NH4OH, MeOH, dichloromethane eluent). The resulting white solid was washed with acetonitrile and dried under vacuum. This gave 80 mg (24% yield) of the titled compound as a white solid.

reactant | 2-tert-butyl-5-[2-(2,4-difluoro-benzyl)-butyl]-3-methyl-4-oxo-tetrahydro-pyrimidine-1-carboxylic acid methyl ester | 1.2 mmol, 0.5 g | COC(=O)N1C(N(C(C(C1)CC(CC)CC1=C(C=C(C=C1)F)F)=O)C)C(C)(C)C | C22H32F2N2O3
reactant | HCl | 20 mL | Cl | ClH
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (2R,4R)-2-Aminomethyl-4-(2,4-difluoro-benzyl)-hexanoic acid | 80 mg, 24% yield | NC[C@H](C(=O)O)C[C@@H](CC)CC1=C(C=C(C=C1)F)F | C14H19F2NO2
